2199-03-13 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2199-3-12**] 10:43 PM
   - admitted with resp distress
   - positive pressure ventilation with goals sats of low 90s given high
   CO2 retention
   - WOB decreased
   - RT had difficulty titrating CPAP/BiPAP & maintaining sats, pt was
   switched to NC with face tent of 60%, sats stable in low 90s now
   Pt doing well this am, denies SOB/cough/CP.  Pt has some abd
   pain/distension & needs to have a BM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Methylprednisolone 80mg IV q8hr X 3
   Alb/Atrovent
   Advair
   Levofloxacin
   Other medications:
   Flowsheet Data as of  [**2199-3-13**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.5
C (97.7
   HR: 103 (95 - 111) bpm
   BP: 121/64(74) {121/59(74) - 147/88(103)} mmHg
   RR: 26 (18 - 33) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                  PO:
                                                           Drinking ad lib
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    600 mL
                                                                    600 mL
   Urine:
                                                                    600 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -600 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   Ventilator mode: CPAP
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 472 (472 - 481) mL
   PS : 8 cmH2O
   RR (Set): 0
   RR (Spontaneous): 26
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: 7.37/72/71/34/12
   Ve: 4.1 L/min
   PaO2 / FiO2: 118
   Physical Examination
   GEN: comfortable, NAD, face tent in place
   CV: RR mildly tachy, no m.r.g
   RESP: diffuse insp/exp musical wheezes,intermittent rhonchi over LLL,
   moving air well
   ABD: soft/NT/BND/NABS
   Extr: scattered petechial type rash over all four extremities, trace to
   +1 pitting edema LE bilaterally
   Labs / Radiology
   CXR portable [**2199-3-12**] pm
   Cardiac and mediastinal contours appear relatively
   stable allowing for supine technique.  There is persistent elevation of
    the
   right hemidiaphragm, with evidence of pleural thickening, not significa
   ntly
   changed in appearance from [**2194-2-25**].  Linear lucencies consist
   ent
   with pneumobilia again seen overlying the right upper quadrant.  No foc
   [**Doctor Last Name **]
   consolidations are identified in the left lung.  Pulmonary vascularity
   appears
   unremarkable.
   IMPRESSION:  Persistent elevation of the right hemidiaphragm with right
   -sided
   pleural thickening, unchanged from [**2194**].  No definite focal consolidati
   on.
   240 K/uL
   10.9 g/dL
   221 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.5 mEq/L
   13 mg/dL
   95 mEq/L
   139 mEq/L
   33.2 %
   7.7 K/uL
        [image002.jpg]
                             [**2199-3-13**]  01:09 AM
                             [**2199-3-13**]  04:58 AM
   WBC
   7.7
   Hct
   33.2
   Plt
   240
   Cr
   0.7
   TCO2
   43
   Glucose
   221
   Other labs: CK / CKMB / Troponin-T:64//, Differential-Neuts:77.8 %,
   Lymph:17.0 %, Mono:3.7 %, Eos:0.6 %, Lactic Acid:1.1 mmol/L, Ca++:8.3
   mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Assessment and PLAN:
   71 M with PMHx of asthma, multiple recurrent bronchitis & PNA over past
   year, admitted with 5days of cough & SOB.
   .
   # HYPOXIA: Pt with h/o asthma/COPD and e/o chronic CO2 retention (PCO2
   baseline 60s, HCO3 30s-40s), s/p right lobectomy for empyema.
   Presentation of hypoxemia likely due to viral vs bacterial trigger of
   reactive airway disease in pt with poor reserve. There is possibility
   of bronchitis vs PNA, portable CXR difficult to assess for infiltrate
   given elevated R hemidiaphragm. Will f/u PA & Lateral.  Pt responded
   well to BiPaP initially, but did not tolerate mask well overnight. ABG
   shows significant CO2 retention & pO2 of 70, pH compensated at 7.37
   suggesting a large component of chronic retention.  Pt was mildly
   somnolent on exam and diffusely tight/wheezey.
   - will check ABG now, f/u CXR PA & Lateral
   - continue Methylprednisolone 80mg IV q8hr for today, po taper in am
   - increase albuterol to q2hrs & atrovent nebs q6hrs standing
   - continue Advair [**Hospital1 **] &  levaquin for bronchitis/PNA
   - check DFA to r/o influenza
   - nasal swab to r/o RSV
   - f/u urine legionella given diarrhea.
   - contacting group home for home CPAP settings
   - consider lasix prn, does not appear volume overloaded currently
   - frequent pulmonary toilet
   .
   # Diarrhea - Pt presented c/o new diarrhea in setting of recent
   Augmentin, will f/u C-diff though WBC not signif elevated & no abd
   pain.  Althought could all be [**2-16**] to viral syndrome
   - f/u c-diff given recent abx
   .
   # OSA - Pt will significant apneic episodes overnight. Will attempt to
   use nasal CPAP o/n once gathered information about home settings
   - contact group home today
   .
   # CVA - residual left-sided weakness
   - continue home regimen of aspirin daily
   .
   # Parkinsonism - continue home regimen of benztropine.
   .
   # Mood disorder - continue home paxil, risperdal.
   .
   # OA - prn motrin for knee pain.
   .
   # DM2- holding oral hypoglycemics in house
   - coverage with ISS and BS QIDACHS
   - f/u Hgb A1c
   .
   # h/o PE - bilateral PE diagnosed in [**6-/2196**], per previous OMR notes,
   unclear why pt is no longer on coumadin, will investigate with PCP
   ([**Doctor Last Name 1214**]) today.
   .
   ICU Care
   Nutrition: Reg diet as tolerated
   Glycemic Control:  ISS
   Lines: 18 Gauge - [**2199-3-12**] 10:00 PM
   Prophylaxis:
   DVT: Heparin sc TID
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU

2199-03-13 10:25:00 Physician Attending Progress Note
Chief Complaint: cough and sob
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  71 yr man with hx of asthma, DM, stroke, mental retardations,
   OSA, Parkinson's Dx. On home O2 at rest at 2L, chronic co2 retention,
   admitted with asthma flare/bronchitis
          increased DOE last few days.
          started on Augmentin without improvement
         Sent to ed from group home for hypoxia, sats 69%
   24 Hour Events:  received antibx and nebs, solumedrol
   BiPAP intermittently overnight
now with stable O2 sats on 3 L NC
   History obtained from [**Hospital 85**] Medical records, house staff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-3-13**] 07:53 AM
   Heparin Sodium (Prophylaxis) - [**2199-3-13**] 07:53 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   solumedrol 80 TID, levoflox
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain, Edema
   Respiratory: Cough, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, Diarrhea
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2199-3-13**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 96 (95 - 111) bpm
   BP: 117/62(75) {117/59(74) - 147/88(103)} mmHg
   RR: 31 (18 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    600 mL
                                                                    874 mL
   Urine:
                                                                    600 mL
                                                                    874 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -600 mL
                                                                   -874 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 472 (472 - 481) mL
   PS : 8 cmH2O
   RR (Set): 0
   RR (Spontaneous): 26
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.37/72/71/34/12
   Ve: 4.1 L/min
   PaO2 / FiO2: 118
   Physical Examination
   General Appearance: Well nourished, NAD
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse:present), (Left radial
   pulse:present), (Right DP pulse:present), (Left DP pulse: present)
   Respiratory / Chest: (Breath Sounds: Wheezes : inspir and expiratory,
   tight, decreased air movement
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Rash: petechial on pretibial area b/l, nonblanching
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, at baseline, Movement: Not assessed,
   Tone: Normal
   Labs / Radiology
   10.9 g/dL
   240 K/uL
   221 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.5 mEq/L
   13 mg/dL
   95 mEq/L
   139 mEq/L
   33.2 %
   7.7 K/uL
        [image002.jpg]
                             [**2199-3-13**]  01:09 AM
                             [**2199-3-13**]  04:58 AM
   WBC
   7.7
   Hct
   33.2
   Plt
   240
   Cr
   0.7
   TCO2
   43
   Glucose
   221
   Other labs: CK / CKMB / Troponin-T:64//, Differential-Neuts:77.8 %,
   Lymph:17.0 %, Mono:3.7 %, Eos:0.6 %, Lactic Acid:1.1 mmol/L, Ca++:8.3
   mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Imaging: persistent R hemidaiphragm elevation, r lobectomy (? RLL)now
   with increased volume loss--atelectasis, essentially unchanged from
   [**3-12**]
   Assessment and Plan
   71 yr man with hx of asthma, DM, stroke, mental retardations, OSA,
   Parkinson's Dx. On home O2 at rest at 2L, chronic co2 retention,
   admitted with asthma  flare/bronchitis/pna
 HYPOXEMIA--copd, pna verses bronchitis, possible aspiration
                                 improvement in sats with steroids/nebs
          f/u pa/lat cxr, f/u dfa for influenza , check for RSV dfa, urine
   legionella
   continue solumedrol at 80 TID and reassess tomorrow for taper,
   continue levaquin for coverage--no wbc, fever and now s/p a few days of
   augmentin
   Aspiration risk
but with prior neg swallow study and on hospice at
   group home, touch base with pt
s PCP and group home
        regarding current diet, as plan is for pt to return to group home
   for hospice
   > CO2 retention--repeat abg for CO2 level given somnolence (co2 at
   baseline in 60's), BiPAP as needed
 ASTHMA
as above solumedrol, increase albuterol nebs to  Q 2, atrovent
   Q 6, continue advair [**Hospital1 **]
 OBSTRUCTIVE SLEEP APNEA (OSA)--info on home settings and change to
   nasal mask as he uses at home
        bipap at night and prn pending co2 level, O2 sat goal in low 90%
   range
 DIARRHEA--started 2 days ago prior to augmentin but none since admit,
        check c diff--no elevated wbc or temp, probable  viral syndrome
 DIABETES MELLITUS (DM), TYPE II--ssi
 PARKINSON'S DISEASE--home med regimen
    > prior cva
continue asa
   > mood disorder--home regimen of  ripserdal and paxil
   > h/o PE--has IVC filter, not on chronic anticoaglualtion
   ICU Care
   Nutrition:  PO diet with supervision
clarify diet from group home
   Comments: advance diet to clears with supervision
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2199-3-12**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  diet
   VAP: HOB elevation
   Comments: d/c foley catheter
   Communication: ICU consent signed Comments: brother as contact
   [**Name (NI) 66**] status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes

2199-03-14 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- began steroid taper
   -- pt comfortable throughout day, but w/ thick, congestive cough.
   Desats to low 80s w/ chest PT
   -- repeat ABGs c/w with baseline, improved pH to 7.39 but continued
   hypercapnea
   -- decreased neb frequency to see if could tolerate for floor
   -- ordered for HS BIPAP at home settings
   -- called out to floor
   Pt was seen while taking a nebulizer treatment.  He was feeling SOB,
   unable to bring up secretions while coughing.  Denies CP/ABD pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2199-3-13**] 09:50 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-3-13**] 07:53 AM
   Heparin Sodium (Prophylaxis) - [**2199-3-13**] 03:50 PM
   Other medications:
   Flowsheet Data as of  [**2199-3-14**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.4
C (97.5
   HR: 79 (75 - 115) bpm
   BP: 122/66(79) {109/49(63) - 149/85(101)} mmHg
   RR: 28 (18 - 35) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,050 mL
                  PO:
                                                                  1,050 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,504 mL
                                                                    800 mL
   Urine:
                                                                  1,504 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -454 mL
                                                                   -800 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   SpO2: 90%
   ABG: 7.39/69/58//12
   PaO2 / FiO2: 97
   Physical Examination
   GEN: NAD, taking neb
   CV: RRR, no m/r/g
   RESP: [**Month (only) **] BC over RUL &RLL, intermittent tight wheezes, moving air well
   over LUL &LLL lobes, no rhonchi
   ABD:soft, NT/ND/NABS
   EXTR: trace to +1pitting edema
   DERM: petechial rash still present over bilateral lower extr.
   Labs / Radiology
   CXR PA & Lat [**2199-3-13**]
   In comparison with the study of [**3-12**], there is again extensive
   elevation of the right hemidiaphragmatic contour that has been essentia
   lly
   unchanged for five years.  The suggested area of focal opacification at
    the
   left base is not definitely appreciated on the current study.  The uppe
   r
   portion of both lungs are clear.
   CXR Portable [**2199-3-14**]:
   FINDINGS:  In comparison with study of [**3-13**], there is little overall ch
   [**Last Name (un) **].
   Elevation of the right hemidiaphragmatic contour is again seen.  The he
   art is
   somewhat prominent and there is evidence of dilated ill-defined vessels
   consistent with increased pulmonary venous pressure.
   IMPRESSION:  Little overall change.
   240 K/uL
   10.9 g/dL
   221 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.5 mEq/L
   13 mg/dL
   95 mEq/L
   139 mEq/L
   33.2 %
   7.7 K/uL
        [image002.jpg]
                             [**2199-3-13**]  01:09 AM
                             [**2199-3-13**]  04:58 AM
                             [**2199-3-13**]  03:13 PM
   WBC
   7.7
   Hct
   33.2
   Plt
   240
   Cr
   0.7
   TropT
   <0.01
   TCO2
   43
   43
   Glucose
   221
   Other labs: CK / CKMB / Troponin-T:64/3/<0.01, Differential-Neuts:77.8
   %, Lymph:17.0 %, Mono:3.7 %, Eos:0.6 %, Lactic Acid:1.1 mmol/L,
   Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Swab for Influenza A&B negative
   Urine legionella Ab negative
   Urine & Blood cultures pending
   RSV -?
   Assessment and Plan
   71 M with PMHx of asthma, multiple recurrent bronchitis & PNA over past
   year, now admitted with 5days of cough & SOB.
   .
   # HYPOXIA: Pt with h/o asthma/COPD, chronic CO2 retention (PCO2
   baseline 60s, HCO3 30s-40s), s/p right lobectomy for empyema.
   Presentation with hypoxemia likely due to viral vs bacterial trigger of
   reactive airway disease in pt with poor reserve. There is possibility
   of bronchitis vs PNA, CXR difficult to interpret given elevated L
   hemidiaphragm.  Low suspician of PE, other diagnosis of reactive airway
   disease more likely.  However, will consider CT in am if no clinical
   improvement. Pt did not tolerate Bipap well o/n and sats in 80s with
   apneic episodes. ABG this am shows stable CO2 retention & [**Month (only) 38**] pO2 of
   58.  Pt was c/o worsened SOB today, unable to cough up secretions, exam
   diffusely tight & wheezey. Influenza/Legionella negative and RSV
   pending.  Will resume high dose solumedrol given worsened clinical
   status this am.  Monitoring closely, will repeat ABG prn.
   - Methylprednisolone 60mg IV TID
   - increase albuterol to q2hrs & atrovent nebs q6hrs standing
   - continue Advair [**Hospital1 **], Fluticasone inhaler daily
   - continue levaquin for bronchitis/CAP
   - nasal swab to r/o RSV
   - frequent pulmonary toilet/Chest PT
   - consider CT to better eval lung fields if not clinically improved in
   am
   .
   # Diarrhea - Pt presented c/o new diarrhea in setting of recent
   Augmentin, will f/u C-diff though WBC not signif elevated & no abd
   pain.  Diarrhea could all be [**2-16**] to viral syndrome
   - f/u c-diff
   .
   # OSA -  Pt continues to have significant apneic episodes overnight
   despite home biPAP settings
   - will try nasal CPAP if possible, and continue with back up RR.
   .
   # CVA - residual left-sided weakness
   - continue home regimen of aspirin daily
   .
   # Parkinsonism - continue home regimen of Benztropine.
   .
   # Mood disorder - continue home Paxil & Risperidone.
   .
   # OA - prn motrin for knee pain.
   .
   # DM2- holding oral hypoglycemics in house
   - coverage with ISS and BS QIDACHS
   - Hgb A1c 6.3
   .
   # h/o PE - Bilateral Pes diagnosed in 05, per [**Name (NI) 1163**], pt not on Coumadin
   due to h/o falls.
   ICU Care
   Nutrition: Regular diet as tolerated
   Glycemic Control:  Insulin sliding scale
   Lines:
   18 Gauge - [**2199-3-12**] 10:00 PM
   Prophylaxis:
   DVT: Heparin 5000 sc TID
   Stress ulcer:  PPI
   VAP:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2199-03-14 10:02:00 Physician Attending Progress Note
Chief Complaint: cough sob
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2199-3-13**] 08:15 AM
 NON-INVASIVE VENTILATION - STOP [**2199-3-13**] 07:02 PM
 NON-INVASIVE VENTILATION - START [**2199-3-13**] 11:05 PM
 CALLED OUT initially --bu held in icu for frequent neb requirements
   Home BiPAP settings overnight [**12-21**]--still with apneas through biPAP and
   desats
   History obtained from Patient, house staff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2199-3-13**] 09:50 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-3-14**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2199-3-14**] 08:00 AM
   Other medications:
   per [**Month (only) **] (rewviewed)
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-3-14**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.3
C (97.4
   HR: 84 (75 - 115) bpm
   BP: 137/65(81) {109/49(63) - 149/85(101)} mmHg
   RR: 25 (18 - 35) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,050 mL
                                                                    150 mL
   PO:
                                                                  1,050 mL
                                                                    150 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,504 mL
                                                                    800 mL
   Urine:
                                                                  1,504 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -454 mL
                                                                   -650 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: 7.44/66/55/40/16
   PaO2 / FiO2: 110
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: ), poor airmovement
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Tender: ,
   Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, petechieal rash pretibial
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   305 K/uL
   155 mg/dL
   0.8 mg/dL
   40 mEq/L
   4.1 mEq/L
   19 mg/dL
   96 mEq/L
   141 mEq/L
   32.9 %
   12.8 K/uL
        [image002.jpg]
                             [**2199-3-13**]  01:09 AM
                             [**2199-3-13**]  04:58 AM
                             [**2199-3-13**]  03:13 PM
                             [**2199-3-14**]  07:06 AM
                             [**2199-3-14**]  07:45 AM
   WBC
   7.7
   12.8
   Hct
   33.2
   32.9
   Plt
   240
   305
   Cr
   0.7
   0.8
   TropT
   <0.01
   TCO2
   43
   43
   46
   Glucose
   221
   155
   Other labs: PT / PTT / INR:14.4/24.9/1.3, CK / CKMB /
   Troponin-T:64/3/<0.01, Differential-Neuts:77.8 %, Lymph:17.0 %,
   Mono:3.7 %, Eos:0.6 %, Lactic Acid:1.1 mmol/L, Ca++:8.4 mg/dL, Mg++:2.1
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   71 yr man with hx of asthma, DM, stroke, mental retardations, OSA,
   Parkinson's Dx. On home O2 at rest at 2L, chronic co2 retention,
   admitted with asthma  flare/bronchitis/pna
 HYPOXEMIA--copd, pna verses bronchitis, possible aspiration
           now with worsening oxygenation and tightness--feel that his
   asthma exacerbation is progressing, not evidence of new liung collapse
   on cxr, thoughn mlimited with schronic r hemidiapgragmatic eklevation,
   co2 and ph stable and at pt's baseline
   continue levaquin for coverage--no wbc, fever and now s/p a few days of
   augmentin
   would increase sterroids to solumedrol Iv  60 tid, increase neb
   frequency, pulmicort inhaled, humidified o2, chest PT atrovent Q 6
   continue curent pna treatment with levoflox, as despite increased
   bronchopspasn inand cough no temps or hemodynamic change
          consider  chest ct if no improfvement, though at present no
   evidence of new collapse
           check for RSV dfa
   continue to have relatively low suspicion for PE given symtpoms most
   concerning for bronchospsoam, but does have prior hx and, has IVC
   filter in place--if improvedment in asthma sx and hypoxemia remains at
   this degree would pursue ct pag/pe w/u, imaging of IVC
        expectorant--increasing dose of robitussin
   > Aspiration risk
but with prior neg swallow study and on hospice at
   group home, touch base with pt
s PCP and group home
        regarding current diet, as plan is for pt to return to group home
   for hospice
   > CO2 retention--BiPAP on home settings--may get better seal with nasal
   mask
 ASTHMA
as above
 OBSTRUCTIVE SLEEP APNEA (OSA)--info on home settings and change to
   nasal mask as he uses at home
        bipap at night and prn pending co2 level, O2 sat goal in low 90%
   range
 DIARRHEA--started 2 days ago prior to augmentin but none since admit,
        check c diff--no elevated wbc or temp and low suspicion of c diff
   infection, probable  viral syndrome
 DIABETES MELLITUS (DM), TYPE II--ssi
 PARKINSON'S DISEASE--home med regimen
    > prior cva
continue asa
   > mood disorder--home regimen of  ripserdal and paxil
   > h/o PE--has IVC filter, not on chronic anticoaglualtion
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2199-3-12**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2199-03-15 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2199-3-14**] 07:24 PM
   - increased steroids to methylpred 60mg tid
   - tried to space out nebs to q4h prn overnight with bipap but pt
   desatted and was switched back to face mask with nebs, restarted nebs
   at q4h
   Pt feeling SOB this am, still with non-productive cough.  No CP/ABD
   pain, tolerating po.
   Allergies:
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   eosinophilia;
   Last dose of Antibiotics:
   Levofloxacin - [**2199-3-14**] 10:18 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-3-14**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2199-3-14**] 04:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-3-15**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 83 (80 - 100) bpm
   BP: 131/73(87) {123/62(77) - 163/90(104)} mmHg
   RR: 24 (16 - 35) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,370 mL
                                                                    190 mL
   PO:
                                                                  1,370 mL
                                                                    190 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                    450 mL
   Urine:
                                                                  2,575 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,205 mL
                                                                   -260 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 90%
   ABG: 7.44/66/55/37/16
   PaO2 / FiO2: 69
   Physical Examination
   GEN: NAD, sleepy but easily arousable, responds approp
   HEENT: neck supple, unable to assess JVP
   CV: RRR  no m/r/g
   RESP: [**Month (only) 38**] breath sounds & wheezes over RUL, moving air well over L,
   coughing through exam
   ABD: soft, NT/ND/NABS
   EXTR: no c/c/e, scattered petechia stable over bilateral lower
   extremities
   Labs / Radiology
   325 K/uL
   11.5 g/dL
   248 mg/dL
   0.9 mg/dL
   37 mEq/L
   4.6 mEq/L
   22 mg/dL
   98 mEq/L
   141 mEq/L
   35.7 %
   10.8 K/uL
        [image002.jpg]
                             [**2199-3-13**]  01:09 AM
                             [**2199-3-13**]  04:58 AM
                             [**2199-3-13**]  03:13 PM
                             [**2199-3-14**]  07:06 AM
                             [**2199-3-14**]  07:45 AM
                             [**2199-3-15**]  05:34 AM
   WBC
   7.7
   12.8
   10.8
   Hct
   33.2
   32.9
   35.7
   Plt
   [**Telephone/Fax (3) 1282**]
   Cr
   0.7
   0.8
   0.9
   TropT
   <0.01
   TCO2
   43
   43
   46
   Glucose
   221
   155
   248
   Other labs: PT / PTT / INR:14.4/24.9/1.3, CK / CKMB /
   Troponin-T:64/3/<0.01, Differential-Neuts:83.7 %, Lymph:12.8 %,
   Mono:3.2 %, Eos:0.2 %, Lactic Acid:1.1 mmol/L, Ca++:8.8 mg/dL, Mg++:2.2
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   71 M with PMHx of asthma, multiple recurrent bronchitis & PNA over past
   year, now admitted with 5days of cough & SOB.
   .
   # HYPOXIA: Pt with h/o asthma/COPD, chronic CO2 retention (PCO2
   baseline 60s, HCO3 30s-40s), s/p right lobectomy for empyema.
   Presentation with hypoxemia likely due to viral vs bacterial trigger of
   reactive airway disease in pt with poor reserve. There is possibility
   of bronchitis vs PNA, CXR difficult to interpret given elevated L
   hemidiaphragm. On Bipap with back up rate o/n, but did not tolerate
   mask well  and sats in 80s with apneic episodes. ABG this am shows
   stable CO2 retention & [**Month (only) 38**] pO2 of 58.  Pt was c/o worsened SOB today,
   unable to cough up secretions, exam diffusely tight & wheezey.
   Influenza/Legionella negative and RSV pending.  Will resume high dose
   solumedrol given worsened clinical status this am.  Monitoring closely,
   will repeat ABG prn.
   - Methylprednisolone 60mg IV TID
   - increase albuterol to q2hrs & atrovent nebs q6hrs standing
   - continue Advair [**Hospital1 **], Fluticasone inhaler daily
   - continue levaquin for bronchitis/CAP
   - nasal swab to r/o RSV
   - frequent pulmonary toilet/Chest PT
   - consider CT to better eval lung fields if not clinically improved in
   am
   .
   # Diarrhea - Pt presented c/o new diarrhea in setting of recent
   Augmentin, will f/u C-diff though WBC not signif elevated & no abd
   pain.  Diarrhea could all be [**2-16**] to viral syndrome
   - f/u c-diff
   .
   # OSA -  Pt continues to have significant apneic episodes overnight
   despite home biPAP settings
   - will try nasal CPAP if possible, and continue with back up RR.
   .
   # CVA - residual left-sided weakness
   - continue home regimen of aspirin daily
   .
   # Parkinsonism - continue home regimen of Benztropine.
   .
   # Mood disorder - continue home Paxil & Risperidone.
   .
   # OA - prn motrin for knee pain.
   .
   # DM2- holding oral hypoglycemics in house
   - coverage with ISS and BS QIDACHS
   - Hgb A1c 6.3
   # h/o PE - Bilateral Pes diagnosed in 05, per [**Name (NI) 1163**], pt not on Coumadin
   due to h/o falls.
   ICU Care
   Nutrition: Reg diet
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2199-3-12**] 10:00 PM
   Prophylaxis:
   DVT: Heparin sc
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2199-03-15 11:20:00 Physician Attending Progress Note
Chief Complaint: cough hypoxemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71 yr man with hx of asthma, DM, stroke, mental retardations, OSA,
   Parkinson's Dx. on home O2 at rest at 2L, chronic co2 retention,
   admitted with asthma  flare/bronchitis/pna, with worsening chest
   tightness/wheeze, cough and hypoxemia
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2199-3-14**] 07:24 PM
   tried nasal BiPAP overnight limited by mouth breathing--changed back to
   FFM
   solumedrol increased
   History obtained from Patient, house staff
   Allergies:
   Zosyn (Intraven.) (Piperacillin Sodium/Tazobactam)
   eosinophilia;
   Last dose of Antibiotics:
   Levofloxacin - [**2199-3-15**] 10:23 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-3-15**] 07:42 AM
   Heparin Sodium (Prophylaxis) - [**2199-3-15**] 10:23 AM
   Other medications:
   per [**Month (only) **] (reviewed), solumedrol 60 Q 8, flovent, advair, albuterol nebs,
   atrovent nebs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-3-15**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 84 (80 - 98) bpm
   BP: 140/65(81) {120/62(77) - 162/90(104)} mmHg
   RR: 20 (16 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
                  Total In:
                                                                  1,370 mL
                                                                    710 mL
   PO:
                                                                  1,370 mL
                                                                    710 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                    550 mL
   Urine:
                                                                  2,575 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,205 mL
                                                                    160 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///37/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: R > L), slightly improved airmovement
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, Rash: petechial rash on pretibial area, No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.5 g/dL
   325 K/uL
   248 mg/dL
   0.9 mg/dL
   37 mEq/L
   4.6 mEq/L
   22 mg/dL
   98 mEq/L
   141 mEq/L
   35.7 %
   10.8 K/uL
        [image002.jpg]
                             [**2199-3-13**]  01:09 AM
                             [**2199-3-13**]  04:58 AM
                             [**2199-3-13**]  03:13 PM
                             [**2199-3-14**]  07:06 AM
                             [**2199-3-14**]  07:45 AM
                             [**2199-3-15**]  05:34 AM
   WBC
   7.7
   12.8
   10.8
   Hct
   33.2
   32.9
   35.7
   Plt
   [**Telephone/Fax (3) 1282**]
   Cr
   0.7
   0.8
   0.9
   TropT
   <0.01
   TCO2
   43
   43
   46
   Glucose
   221
   155
   248
   Other labs: PT / PTT / INR:14.4/24.9/1.3, CK / CKMB /
   Troponin-T:64/3/<0.01, Differential-Neuts:83.7 %, Lymph:12.8 %,
   Mono:3.2 %, Eos:0.2 %, Lactic Acid:1.1 mmol/L, Ca++:8.8 mg/dL, Mg++:2.2
   mg/dL, PO4:3.5 mg/dL
   Imaging: rotated, atelectasis verses infiltrate in LLL, s/p RLLobectomy
   Assessment and Plan
 HYPOXEMIA
 ASTHMA
 OBSTRUCTIVE SLEEP APNEA (OSA)
   BiPAP settings confirmed [**12-21**]
 DIARRHEA
 DIABETES MELLITUS (DM), TYPE II
 PARKINSON'S DISEASE
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   71 yr man with hx of asthma, DM, stroke, mental retardations, OSA,
   Parkinson's Dx. On home O2 at rest at 2L, chronic co2 retention,
   admitted with asthma  flare/bronchitis/pna, with worsening chest
   tightness/wheeze, cough and hypoxemia
 HYPOXEMIA--copd, pna , possible aspiration verses PE
          Still with highest suspicion of asthma and now with more
   airmovement/ decreased wheeze, still with increased o2
   requirements--likely with intermittent plugs though no clear new
   collapse on cxr t today
          Does have more evidence of LL opacity though clinically without
   new fevers or WBC ct so feel comfortable continuing with current antbx
   regimen
          Would decrease steroids and change to prednisone, slow taper,
   continue nebs, flovent, expectorent and chest PT
          try weaning o2, if continues to require this amt would
   reconsider CT PAg for furtehr asessment
         Would consider pursuing chest ct if no improvement, though at
   present no evidence of new collapse
         Continue to have relatively low suspicion for PE given symptoms
   most concerning for bronchospasm/asthma, but does have prior hx and has
   IVC filter in place--if improvement in asthma sx and hypoxemia remains
   at this degree would pursue ct pag/pe w/u, imaging of IVC
       Would also consider further aspiration w/u as possible etiology for
   ongoing hypoxemia if no improvement with more aggressive asthma flare
   treatment
 ASTHMA exacerbation
as above
 OBSTRUCTIVE SLEEP APNEA (OSA)-- BiPAP on home settings--may get
   better seal with nasal mask , as he uses at home
 DIARRHEA--started 2 days ago prior to augmentin but none since
   admit--will start bowel regimen
        check c diff
 DIABETES MELLITUS (DM), TYPE II--ssi--will increase scale while on
   steroids
 PARKINSON'S DISEASE--home med regimen
    > prior cva
continue asa
    Remainder per resident note, agree with plan as documented
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2199-3-12**] 10:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 40  minutes